US07163936B2
A solution of lithium hexamethyldisilazide in THF (1M, 0.29 ml, 0.29 mmol) was added at 0–5° C. to a solution of allyl (2R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (122 mg, 0.29 mmol) in THF (4.3 ml) and the mixture was stirred for 10 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 1.09 g, 0.58 mmol) and the solution was allowed to stand in a refrigerator for 19 hours. To the reaction solution was added ice water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was dissolved in THF (5.65 ml). To the solution were added at 0–5° C. acetic acid (215 μl) and tetrabutylammonium fluoride in THF (1M, 1.5 ml, 1.5 mmol). After reaction for 20 hours, to the reaction mixture was added ice water and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate: 1/3→10% methanol in chloroform) to give allyl (4R,5S,6S)-3-({4-[(2R)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (110 mg, 68%). IR (KBr) 3426, 2933, 1772, 1700, 1559, 1457, 1136 cm−1 1H NMR (300 MHz, CDCl3) δ 1.10 (3 H, d, J=7.3 Hz), 1.31 (3 H, d, J=6.2 Hz), 2.50 (1 H, d, J=17.4 Hz), 2.62–2.73 (1 H, m), 3.25 (1 H, d, J=2.8, 7.0 Hz), 3.45–3.96 (4 H, m), 4.17–4.27 (2 H, m), 4.41–4.86 (6 H, m), 5.19–5.47 (4 H, m), 5.87–6.03 (2 H, m), 6.63 (1 H, s), 7.11 (1 H, s).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl (2R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.29 mmol, 122 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1N(CC=C(C1)C=1N=C(SC1)S)C(=O)OCC=C | C19H30N2O3S2Si
reactant | (diphenoxyphosphino)oxy-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C(C(C2C1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)[O-])OC1=CC=CC=C1
reactant | acetonitrile | 0.58 mmol, 1.09 g | C(C)#N | C2H3N
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 4.3 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 mmol, 1M, 1.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.29 mmol, 1M, 0.29 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 215 μl | C(C)(=O)O | C2H4O2
product | allyl (4R,5S,6S)-3-({4-[(2R)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 110 mg, 68% | C(C=C)OC(=O)N1[C@H](CC(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CO | C26H31N3O7S2
